US04227000
An equimolar mixture of 2-nitroamino-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone and 2-(2-thiazolylmethylthio)ethylamine was heated under reflux in ethanol for 18 hours. The solid which crystallised out on cooling was recrystallised from ethanol to give 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone, m.p. 95°-7°, in 60% yield.

reactant | 2-nitroamino-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C11H11N5O4
reactant | 2-(2-thiazolylmethylthio)ethylamine | S1C(=NC=C1)CSCCN | C6H10N2S2
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-thiazolylmethylthio)ethylamino]-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | 60% yield | S1C(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C17H19N5O2S2
